US08957080B2
Synthesis of 2-{2-[4-amino-5-(2-fluoro-4-phenoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-ylmethyl]-pyrrolidine-1-carbonyl}-3-cyclopropyl-acrylonitrile
To a mixture of 5-(2-fluoro-4-phenoxy-phenyl)-7-pyrrolidin-2-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (100 mg, 0.25 mmol, 1.0 eq), 2-cyano-3-cyclopropyl-acrylic acid (42 mg, 0.3 mmol, 1.2 eq) and DIEA (97 mg, 0.75 mmol, 3.0 eq) in 10 ml of DCM was added HATU (145 mg, 0.38 mmol, 1.5 eq). The mixture was stirred for 4 h at RT under N2. LCMS showed the reaction was completed. The reaction mixture was concentrated and purified by Pre-TLC to provide 71 mg (54%) of the title compound. LCMS: m/z 523.2 (M+H)+. 1HNMR (400 MHz, DMSO-d6): δ 0.866˜0.920 (m, 2H), 1.177˜1.194 (m, 2H), 1.569 (m, 1H), 1.721 (m, 2H), 1.883 (m, 2H), 3.200 (m, 2H), 3.511 (m, 1H), 4.360˜4.475 (m, 2H), 6.125 (m, 2H), 6.642˜6.664 (m, 1H), 6.898˜6.920 (m, 1H), 6.977˜7.010 (m, 1H), 7.150˜7.232 (m, 4H), 7.371˜7.471 (m, 3H) and 8.131 (m, 1H).

reactant | 5-(2-fluoro-4-phenoxy-phenyl)-7-pyrrolidin-2-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.25 mmol, 100 mg, 1.0 eq | FC1=C(C=CC(=C1)OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)CC2NCCC2 | C23H22FN5O
reactant | 2-cyano-3-cyclopropyl-acrylic acid | 0.3 mmol, 42 mg, 1.2 eq | C(#N)C(C(=O)O)=CC1CC1 | C7H7NO2
reactant | DIEA | 0.75 mmol, 97 mg, 3.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.38 mmol, 145 mg, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-{2-[4-amino-5-(2-fluoro-4-phenoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-ylmethyl]-pyrrolidine-1-carbonyl}-3-cyclopropyl-acrylonitrile | 71 mg, 54% | NC=1C2=C(N=CN1)N(C=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)CC2N(CCC2)C(=O)C(C#N)=CC2CC2 | C30H27FN6O2
